US07517910B2
5-fluoro-2-propyl-1H-indole
To a suspension of ethyltriphenylphosphonium bromide (0.86 g, 2.30 mmol) in tetrahydrofuran (20 mL) was added sodium hydride (60% in oil, 80 mg, 1.99 mmol) with stirring at room temperature, and the mixture was stirred at the same temperature for 20 min. To the solution was added 5-fluoro-1H-indole-2-carbaldehyde (0.25 g, 1.53 mmol) synthesized according to the method described in WO99/09025, and the mixture was stirred at 70° C. for 3 hr. After cooling, the reaction mixture was diluted with ethyl acetate, and the mixture washed with water and saturated brine, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=4/1) to give a beige powder. A mixture of the obtained powder, 10% palladium-carbon (50% water-containing product, 0.1 g) and methanol (10 mL) was stirred under a hydrogen atmosphere for 3 hr. The catalyst was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1-hexane/ethyl acetate=4/1) to give the title compound (0.18 g, yield 65%) as a colorless oil. MS (ESI+): 178 (M+H).

reactant | sodium hydride | 1.99 mmol, 80 mg | [H-].[Na+]
reactant | 5-fluoro-1H-indole-2-carbaldehyde | 1.53 mmol, 0.25 g | FC=1C=C2C=C(NC2=CC1)C=O | C9H6FNO
reactant | methanol | 10 mL | CO | CH4O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | ethyltriphenylphosphonium bromide | 2.30 mmol, 0.86 g | [Br-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 5-fluoro-2-propyl-1H-indole | 0.18 g, yield 65% | FC=1C=C2C=C(NC2=CC1)CCC | C11H12FN
